US04861769
To a solution of benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (3 g) in methylene chloride (300 ml) was dropwise added a solution of m-chloroperbenzoic acid (0.79 g, 80% purity) in methylene chloride (10 ml) below 5° C. The mixture was stirred for 1.5 hours below 5° C. to give precipitates. The precipitates were collected, washed with methylene chloride, and dried over phosphorus pentoxide to give benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide (syn isomar) as a solid.

reactant | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 3 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C30H26ClN5O6S2
reactant | m-chloroperbenzoic acid | 0.79 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C30H26ClN5O7S2
